US05753682
1. 2-Chloro-4-(2-methylimidazol-1-yl)benzyl alcohol
Prepared from 2-methylimidazole and ethyl 2-chloro-4-fluorobenzoate.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | ethyl 2-chloro-4-fluorobenzoate | ClC1=C(C(=O)OCC)C=CC(=C1)F | C9H8ClFO2
product | 2-Chloro-4-(2-methylimidazol-1-yl)benzyl alcohol | ClC1=C(CO)C=CC(=C1)N1C(=NC=C1)C | C11H11ClN2O
